### PR TITLE
[Merged by Bors] - feat(Order): replace the implementation of `Set.chainHeight`

### PR DESCRIPTION
**Pull request by vlad902**
`Set.chainHeight` is unused in Mathlib--it was a previous attempt to formalize heights for preorders before `Order.height` came into use. The current implementation `Set.chainHeight` is previously defined for Sets that had an `LT` order but it's behavior was unexpected for relations that were not strict orders, e.g. singleton sets with a reflexive relation would have infinite height.

LE is such a relation so this implementation is very limited in what it could be used for. I replace it with an implementation that:
- Is defined for arbitrary relations instead of using `[LT]`.
- Uses `IsChain` instead of `List.IsChain` for defining chains. This is equivalent for transitive relations, but behaves differently for non- transitive relations--it requires that all elements in the set are comparable instead of just comparability between neighboring elements in the List. This makes the definition better behaved for e.g. reflexive relations and better matches the definition of chain height typically used in the literature.

The API has been slimmed down but what remains largely matches the previous API.

Discussed on [Zulip](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Definitions.20for.20chain.20height.2Fpartitions/near/542823244)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/Height.lean [hunk 1]
```diff
@@ -1,336 +1,172 @@
...
+  obtain ⟨t, ht⟩ := exists_eq_iSup_of_lt_top (by rwa [← chainHeight_eq_iSup, lt_top_iff_ne_top])
+  exact ⟨t.1, t.2.1, ht, t.2.2⟩
+
+theorem exists_eq_chainHeight_of_finite (h : s.Finite) :
+     ∃ t ⊆ s, t.encard = s.chainHeight r ∧ IsChain r t :=
+  exists_eq_chainHeight_of_chainHeight_ne_top s r (chainHeight_ne_top_of_finite s r h)
+
+theorem encard_le_chainHeight {r} (s t : Set α) (hs : t ⊆ s) (hc : IsChain r t) :
+    t.encard ≤ s.chainHeight r :=
+  le_iSup_iff.mpr fun _ hb ↦ hb ⟨t, hs, hc⟩
```
Comment (Vierkantor) [inline Mathlib/Order/Height.lean]: Could you add the corollary, that `IsChain r s` implies `s.chainHeight r = s.encard`?

File: Mathlib/Order/Height.lean [hunk 2]
```diff
@@ -1,336 +1,172 @@
...
+    ∃ t ⊆ s, t.encard = s.chainHeight r ∧ IsChain r t := by
+  have : Nonempty { t // t ⊆ s ∧ IsChain r t } := ⟨∅, by simp⟩
+  obtain ⟨t, ht⟩ := exists_eq_iSup_of_lt_top (by rwa [← chainHeight_eq_iSup, lt_top_iff_ne_top])
+  exact ⟨t.1, t.2.1, ht, t.2.2⟩
+
+theorem exists_eq_chainHeight_of_finite (h : s.Finite) :
+     ∃ t ⊆ s, t.encard = s.chainHeight r ∧ IsChain r t :=
+  exists_eq_chainHeight_of_chainHeight_ne_top s r (chainHeight_ne_top_of_finite s r h)
+
+theorem encard_le_chainHeight {r} (s t : Set α) (hs : t ⊆ s) (hc : IsChain r t) :
```
Comment (Vierkantor) [inline Mathlib/Order/Height.lean]: It's not immediately clear from the name that `encard` here refers to the cardinality of `t` and `chainHeight` to the height of `s`. Do you have suggestions? The best I could come up with was:
```suggestion
theorem encard_le_chainHeight_of_isChain {r} (s t : Set α) (hs : t ⊆ s) (hc : IsChain r t) :
```

**Review by Vierkantor — COMMENTED** [review]
This is definitely a more elegant definition. What are your plans for readding the removed APIs, and then connecting this to `Order.krullDim`?

File: Mathlib/Order/Height.lean (hunk 2 above)
Comment (vlad902) [reply Mathlib/Order/Height.lean]: I don't have a better suggestion so I went with yours.

**Comment by vlad902** [comment]
> This is definitely a more elegant definition. What are your plans for readding the removed APIs, and then connecting this to `Order.krullDim`?

In the [Zulip discussion](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Definitions.20for.20chain.20height.2Fpartitions/near/542823244) the consensus seemed to be re-define this API for order-theoretic uses and that it may not make sense to connect it to `Order.krullDim`. I personally have nothing against connecting it and even started some work in that direction (e.g. proving equivalence of `RelSeries` and `IsChain`), but I'm not sure how much utility it would offer since that API is better developed and contains lots of API specialized to the ring theory context. In particular, I'm not sure if it makes sense to replace the API I did remove since it's original purpose was actually to be used for krull dimension purposes and doesn't make sense for `Set.chainHeight` if it's intended use is order-theoretic.

File: Mathlib/Order/Height.lean [hunk 3]
```diff
@@ -1,340 +1,181 @@
...
+  by_cases h' : n = 0
+  · exact ⟨∅, by simp [h']⟩
+  · have : ∃ t ⊆ s, IsChain r t ∧ n ≤ t.encard := by
+      contrapose! h
+      refine iSup_lt_iff.mpr ⟨n - 1, ?_, fun m ↦ ENat.le_sub_one_of_lt <| h m.1 m.2.1 m.2.2⟩
+      norm_cast
+      exact Nat.sub_one_lt h'
+    obtain ⟨t, ht₁, ht₂, ht₃⟩ := this
+    obtain ⟨u, hu₁, hu₂⟩ := exists_subset_encard_eq ht₃
+    exact ⟨u, hu₁.trans ht₁, hu₂, ht₂.mono hu₁⟩
```
Comment (Vierkantor) [inline Mathlib/Order/Height.lean:64]: Slight golfing: `have + obtain -> obtain`, `norm_cast + exact -> exact_mod_cast`.
```suggestion
  by_cases h' : n = 0
  · exact ⟨∅, by simp [h']⟩
  · obtain ⟨t, ht₁, ht₂, ht₃⟩ : ∃ t ⊆ s, IsChain r t ∧ n ≤ t.encard := by
      contrapose! h
      refine iSup_lt_iff.mpr ⟨n - 1, ?_, fun m ↦ ENat.le_sub_one_of_lt <| h m.1 m.2.1 m.2.2⟩
      exact_mod_cast Nat.sub_one_lt h'
    obtain ⟨u, hu₁, hu₂⟩ := exists_subset_encard_eq ht₃
    exact ⟨u, hu₁.trans ht₁, hu₂, ht₂.mono hu₁⟩
```

File: Mathlib/Order/Height.lean [hunk 4]
```diff
@@ -1,340 +1,181 @@
...
 
-variable {α β : Type*}
+@[simp]
+theorem chainHeight_eq_zero_iff : s.chainHeight r = 0 ↔ s = ∅ := by
+  refine ⟨fun h ↦ ?_, ?_⟩
+  · by_contra! hh
+    obtain ⟨x, hx⟩ := hh
+    simp only [chainHeight, iSup_eq_zero, encard_eq_zero, Subtype.forall] at h
+    have := h {x}
+    simp [hx] at this
```
Comment (Vierkantor) [inline Mathlib/Order/Height.lean]: We don't need the `by_contra!` here, since showing `s = ∅` from `x ∉ s` is just set extensionality. Also `have; simp at this` can become `simpa`.
```suggestion
  · simp only [chainHeight, iSup_eq_zero, encard_eq_zero, Subtype.forall, and_imp] at h
    ext x
    simpa using h {x}
```

File: Mathlib/Order/Height.lean [hunk 5]
```diff
@@ -1,340 +1,181 @@
...
 
-variable [LT α] [LT β] (s t : Set α)
+@[simp]
+theorem chainHeight_of_isEmpty [IsEmpty α] : s.chainHeight r = 0 :=
+  chainHeight_eq_zero_iff s r |>.mpr (Subsingleton.elim _ _)
 
-/-- The set of strictly ascending lists of `α` contained in a `Set α`. -/
-def subchain : Set (List α) :=
-  { l | l.IsChain (· < ·) ∧ ∀ i ∈ l, i ∈ s }
+theorem chainHeight_mono (s t : Set α) (h : s ⊆ t) : s.chainHeight r ≤ t.chainHeight r := by
```
Comment (Vierkantor) [inline Mathlib/Order/Height.lean:129]: We might as well add the attribute:
```suggestion
@[mono]
theorem chainHeight_mono (s t : Set α) (h : s ⊆ t) : s.chainHeight r ≤ t.chainHeight r := by
```

**Review by Vierkantor — APPROVED** [review]
The code definitely gets nicer with this change, thanks! On the longer term, I don't see yet how the changes help with the goals discussed on Zulip. But I suppose making this PR wait longer is not going to help either. So let's merge this and plan for the rest.

bors d+

**Comment by vlad902** [comment]
> On the longer term, I don't see yet how the changes help with the goals discussed on Zulip.

So the idea is that now the definition of `Set.chainHeight` is the order theoretic chain height. It can be used for talking about chain heights of arbitrary chains, e.g. there's no need to specialize to LT or transitive orders. So this API is essentially the final product, though I would also like to now add a Set.antichainWidth to match this API.

**Comment by vlad902** [comment]
bords r+
